US07598264B2
6-(3-chloro-4-fluorobenzyl)-N,N-diethyl-4-hydroxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide
The title compound was prepared from methyl 6-(3-chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate in a manner similar to that described in Example 12, Steps 12, 13 and 14, using diethyl amine in place of dimethylamine in the step corresponding to Step 13 of Example 12.

reactant | methyl 6-(3-chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)OC)C)=O)OC)=O)C=CC1F | C19H18ClFN2O5
reactant | diethyl amine | C(C)NCC | C4H11N
product | 6-(3-chloro-4-fluorobenzyl)-N,N-diethyl-4-hydroxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)N(CC)CC)C)=O)O)=O)C=CC1F | C21H23ClFN3O4
